US06221865B1
4-Amino-4′-biphenyl carboxylic acid
The title compound can be prepared by palladium catalyzed hydrogenation of 4-nitro-4′-biphenyl carboxylic acid.

reactant | 4-nitro-4′-biphenyl carboxylic acid | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C13H9NO4
catalyst | palladium | [Pd] | Pd
product | 4-Amino-4′-biphenyl carboxylic acid | NC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C13H11NO2
